US09145380B2
a) 2-(3-Bromophenylsulfonamido)-5-phenoxybenzenesulfonamide
To a solution of 2-amino-5-phenoxybenzenesulfonamide (528 mg, 2 mmol) in pyridine (15 mL), 3-bromobenzenesulphonyl chloride (669.3 mg, 2.3 mmol) was added portionwise at 0° C. The reaction was stirred at RT overnight. The pyridine was removed in vacuo and the residue was dissolved in ethyl acetate. The organic phase was washed with aqueous 1N HCl, water and brine, dried over sodium sulfate, and concentrated under reduced pressure. The crude product was purified by flash column chromatography using ethyl acetate/hexane (1:3) as eluent to give the title compound (700 mg, 72%).

reactant | 2-amino-5-phenoxybenzenesulfonamide | 2 mmol, 528 mg | NC1=C(C=C(C=C1)OC1=CC=CC=C1)S(=O)(=O)N | C12H12N2O3S
reactant | 3-bromobenzenesulphonyl chloride | 2.3 mmol, 669.3 mg | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-Bromophenylsulfonamido)-5-phenoxybenzenesulfonamide | 700 mg, 72% | BrC=1C=C(C=CC1)S(=O)(=O)NC1=C(C=C(C=C1)OC1=CC=CC=C1)S(=O)(=O)N | C18H15BrN2O5S2
